US07034016B2
A mixture of 5-[2-(tetrahydro-pyran-2-yloxy)ethyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.80 mmol, 2.4 mmol) and aqueous hydrochloric acid (2 mL, 2N) in ethanol (10 mL) was stirred under reflux for one hour and then evaporated under reduced pressure to yield crude (1S,4S)-2-(2,5-Diazabicyclo[2.2.1]hept-2-yl)ethanol, dihydrochloride (0.51 g) as a dark oil which was used in the next step without further purification.

reactant | 5-[2-(tetrahydro-pyran-2-yloxy)ethyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.80 mmol | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)CCOC2OCCCC2 | C17H30N2O4
reactant | hydrochloric acid | 2N, 2 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (1S,4S)-2-(2,5-Diazabicyclo[2.2.1]hept-2-yl)ethanol, dihydrochloride | 0.51 g | Cl.Cl.[C@@H]12N(C[C@@H](NC1)C2)CCO | InChI=1S/C7H14N2O.2ClH/c10-2-1-9-5-6-3-7(9)4-8-6;;/h6-8,10H,1-5H2;2*1H/t6-,7-;;/m0../s1
